US08912208B2
A. (5-Bromo-pyridin-2-yl)-(3-chlorophenyl)-amine
A 1-dram vial was charged with 2,5-dibromopyridine (0.5 g, 2.1 mmol, 1.0 equiv) and 3-chlorophenyl amine (0.89 mL, 8.4 mmol. 4 equiv). The neat reaction mixture was heated to 180° C. for 3 hours. The reaction was cooled, then purified by flash chromatography to afford the title compound. (M+H)+ 285.0.

reactant | 2,5-dibromopyridine | 2.1 mmol, 0.5 g, 1.0 equiv | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 3-chlorophenyl amine | 8.4 mmol, 0.89 mL, 4 equiv | ClC=1C=C(C=CC1)N | C6H6ClN
product | (5-Bromo-pyridin-2-yl)-(3-chlorophenyl)-amine | BrC=1C=CC(=NC1)NC1=CC(=CC=C1)Cl | C11H8BrClN2
